US08426402B2
Methyl 1-methyl-4-(1-methyl-4-nitro-1H-pyrrole-2-carboxamido)-1H-pyrrole-2-carboxylate
In a hydrogenation bottle was added methyl 1-methyl-4-nitro-1H-pyrrole-2-carboxylate (3.0 g, 16.30 mmol), 80 ml of THF, 405 mg of 10% Pd/C and 1.3 ml of HCl (conc.). After evacuation under vacuum the bottle was placed under 30 psi hydrogen and shaken for 5 hours. The mixture was filtered through celites, evaporated to dryness without further purification. To the dry mixture was added 1-methyl-4-nitro-1H-pyrrole-2-carboxylic acid (2.75 g, 16.18 mmol), 80 ml of DMA, EDC (8.51 g, 44.27 mmol) and DIPEA (2.80 ml, 16.10 mmol). The mixture was stirred under Ar overnight, concentrated, diluted with THF/EtAc (1:2, 150 ml), and washed 1M NaH2PO4/NaCl (conc) and NaHCO3 (conc) separately. The organic layer was separated and dried over MgSO4, filtered concentrated and crystallized with THF/H2O to afford 3.74 g (75%) of the title product. 1H NMR (DMSO) 10.25 (s, 1H), 8.17 (s, 1H), 7.25 (s, 1H), 6.52 (s, 1H), 6.08 (s, 1H), 3.90 (s, 3H), 3.78 (s, 3H), 3.56 (s, 3H); 13C NMR 157.87, 156.84, 133.76, 128.16, 123.39, 119.13, 118.18, 111.83, 107.50, 104.17, 51.55, 37.41, 36.03; MS m/z+ 329.1 (M+Na).

reactant | methyl 1-methyl-4-nitro-1H-pyrrole-2-carboxylate | 16.30 mmol, 3.0 g | CN1C(=CC(=C1)[N+](=O)[O-])C(=O)OC | C7H8N2O4
reactant | HCl | 1.3 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | 1-methyl-4-nitro-1H-pyrrole-2-carboxylic acid | 16.18 mmol, 2.75 g | CN1C(=CC(=C1)[N+](=O)[O-])C(=O)O | C6H6N2O4
reactant | EDC | 44.27 mmol, 8.51 g
reactant | DIPEA | 16.10 mmol, 2.80 ml | CCN(C(C)C)C(C)C | C8H19N
catalyst | Pd/C | 405 mg | [Pd] | Pd
solvent | DMA | 80 ml | CC(=O)N(C)C | C4H9NO
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | Methyl 1-methyl-4-(1-methyl-4-nitro-1H-pyrrole-2-carboxamido)-1H-pyrrole-2-carboxylate | 3.74 g, 75% | CN1C(=CC(=C1)NC(=O)C=1N(C=C(C1)[N+](=O)[O-])C)C(=O)OC | C13H14N4O5
